US04963553
7-(3-Chlorophenyl)-4,5-dihydro-4-[[4-[(3-methoxyphenyl)methyl]-1-piperazinyl]acetyl]-6-methylpyrazolo[1,5-a]pyrimidine-3-carbonitrile, dihydrochloride
A mixture of 2.7 g of 4-(chloroacetyl)-7-(3-chlorophenyl)-4,5-dihydro-6-methylpyrazolo[1,5-a]pyrimidine-3-carbonitrile, 920 mg of sodium carbonate and 1.7 g of 3-methoxybenzyl piperazine in 100 ml of toluene was stirred for 18 hours, then treated with 25 ml of 1N sodium hydroxide and shaken. The layers were separated and the alkaline layer extracted with chloroform. This extract and the toluene layer were combined, washed with water dried, filtered and concentrated. The residual oil was triturated in ether then concentrated and dissolved with heating in 25 ml of ethanol. A 10 ml portion of 2.44N ethanolic hydrochloric acid and an excess of ether were added and the solid was collected. This solid was crystallized from hot acetonitrile giving 1.4 g of the desired product, mp 195°-197° C.

reactant | 4-(chloroacetyl)-7-(3-chlorophenyl)-4,5-dihydro-6-methylpyrazolo[1,5-a]pyrimidine-3-carbonitrile | 2.7 g | ClCC(=O)N1C=2N(C(=C(C1)C)C1=CC(=CC=C1)Cl)N=CC2C#N | C16H12Cl2N4O
reactant | sodium carbonate | 920 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-methoxybenzyl piperazine | 1.7 g | COC=1C=C(CN2CCNCC2)C=CC1 | C12H18N2O
reactant | sodium hydroxide | 1N, 25 ml | [OH-].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 7-(3-Chlorophenyl)-4,5-dihydro-4-[[4-[(3-methoxyphenyl)methyl]-1-piperazinyl]acetyl]-6-methylpyrazolo[1,5-a]pyrimidine-3-carbonitrile, dihydrochloride | Cl.Cl.ClC=1C=C(C=CC1)C1=C(CN(C=2N1N=CC2C#N)C(CN2CCN(CC2)CC2=CC(=CC=C2)OC)=O)C | InChI=1S/C28H29ClN6O2.2ClH/c1-20-17-34(28-23(15-30)16-31-35(28)27(20)22-6-4-7-24(29)14-22)26(36)19-33-11-9-32(10-12-33)18-21-5-3-8-25(13-21)37-2;;/h3-8,13-14,16H,9-12,17-19H2,1-2H3;2*1H
